US06316482B1
To a solution of 4-(2-amino-3-nitrobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (3.88 g) in ethanol (40 ml) were added a solution of ammonium chloride (385 mg) in water (10 ml) and iron powder (2.01 g) and the mixture was stirred at 100° C. for 2 hours. The mixture was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was diluted with ethyl acetate and the solution was washed with aqueous saturated sodium bicarbonate solution and brine. The organic layer was dried over magnesium sulfate and the solution was concentrated in vacuo to give 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide as a yellow powder (3.42 g).

reactant | 4-(2-amino-3-nitrobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 3.88 g | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1[N+](=O)[O-] | C34H42N6O7
reactant | ammonium chloride | 385 mg | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | iron | 2.01 g | [Fe] | Fe
product | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 3.42 g | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
